US07081470B2
1-[(5-CHLORO-1-BENZOTHIEN-3-YL)METHYL]-2H-INDOLE-2,3-dione
A solution of isatin (125 mg, 0.85 mmol) in anhydrous dioxane (10 mL) was added dropwise to a solution of sodium hydride (60% dispersion in mineral oil, 25 mg, 0.62 mmol) in anhydrous dioxane (10 mL) at 0° C. under argon. The mixture was allowed to stir for 5 minutes and then a solution of 3-(bromomethyl)-5-chlorobenzo[b]thiophene (267 mg, 1.02 mmol) in dioxane (10 mL) was added dropwise to the reaction mixture. The reaction mixture was heated at reflux under argon for 16 h and concentrated in vacuo. The crude material was purified by preparative TLC using 1:24 methanol in chloroform as the eluent, giving the desired product as a yellow solid (125 mg, 0.38 mmol, 45%). 1H NMR (400 MHz): δ 7.89 (s, 1H), 7.79 (d, J=8.5, 1H), 7.65 (d, J=7.5, 1H), 7.54 (t, J=8.0, 1H), 7.42 (s, 1H), 7.38 (d, J=8.5, 1H), 7.14 (t, J=7.5, 1H), 6.88 (d, J=7.8, 1H) 5.13 (s, 2H).

reactant | isatin | 0.85 mmol, 125 mg | N1C(=O)C(=O)C2=CC=CC=C12 | C8H5NO2
reactant | sodium hydride | 0.62 mmol, 25 mg | [H-].[Na+]
reactant | 3-(bromomethyl)-5-chlorobenzo[b]thiophene | 1.02 mmol, 267 mg | BrCC=1C2=C(SC1)C=CC(=C2)Cl | C9H6BrClS
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
product | 1-[(5-CHLORO-1-BENZOTHIEN-3-YL)METHYL]-2H-INDOLE-2,3-dione | 0.38 mmol, 125 mg, 45% | ClC=1C=CC2=C(C(=CS2)CN2C(C(C3=CC=CC=C23)=O)=O)C1 | C17H10ClNO2S
